US05344843
A solution of 4-[2-oxo-2-(2,4,6-trimethylphenyl]ethoxy]-alpha-oxobenzeneacetic acid ethyl ester (0.357 g) in hot methanol (5 mL) was treated with 1N sodium hydroxide (2 mL). Water (20 mL) was added, then after the methanol was removed in vacuo, the solution was acidified with 1N hydrochloric acid (2.5 mL) and extracted with dichloromethane methane (1×40 mL, 1×7 mL). The combined organic layers were washed with brine, then dried (MgSO4) and evaporated. The resulting residue was crystallized from diethyl ether-hexane to furnish 0.242 g of 4-[2-oxo-2-(2,4,6-trimethyl-phenyl]ethoxy]-alpha-oxobenzeneacetic acid, mp 144°-145° C.

reactant | 4-[2-oxo-2-(2,4,6-trimethylphenyl]ethoxy]-alpha-oxobenzeneacetic acid ethyl ester | 0.357 g | C(C)OC(C(C1=CC=C(C=C1)OCC(C1=C(C=C(C=C1C)C)C)=O)=O)=O | C21H22O5
reactant | sodium hydroxide | 1N, 2 mL | [OH-].[Na+]
reactant | Water | 20 mL | O | H2O
solvent | methanol | 5 mL | CO | CH4O
product | 4-[2-oxo-2-(2,4,6-trimethyl-phenyl]ethoxy]-alpha-oxobenzeneacetic acid | 0.242 g | O=C(COC1=CC=C(C=C1)C(C(=O)O)=O)C1=C(C=C(C=C1C)C)C | C19H18O5
